US06982348B2
To a solution of 3-fluoro-4-(trifluoromethyl)benzoic acid (10.5 g, 50.7 mmol) in tetrahydrofuran (30 ml) was added a 1M tetrahydrofuran solution of borane (63 ml, 63 mmol) and the mixture was stirred at room temperature for 8 hrs. 1N Hydrochloric acid (100 ml) was added to the reaction solution and the mixture was extracted with ethyl acetate (300 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give 3-fluoro-4-(trifluoromethyl)benzyl alcohol (10.3 g, purity 90%, 94%).

reactant | 3-fluoro-4-(trifluoromethyl)benzoic acid | 50.7 mmol, 10.5 g | FC=1C=C(C(=O)O)C=CC1C(F)(F)F | C8H4F4O2
reactant | borane | 63 mmol, 63 ml | B | BH3
reactant | Hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | 3-fluoro-4-(trifluoromethyl)benzyl alcohol | 10.3 g, 94% | FC=1C=C(CO)C=CC1C(F)(F)F | C8H6F4O
